US04501702
This compound was prepared according to the process described in Example I, starting from 3.0 g of 2-chloro-2-methylhexaethyltrigermane, 0.6 g of sodium hydroxide and 3 ml of water. 3.1 g (55%) of colorless, liquid oxybis(1,1,1,3,3,3-hexaethylmethyltrigermane) were obtained; nD20 =1.5410.

reactant | 2-chloro-2-methylhexaethyltrigermane | 3.0 g | Cl[Ge]([Ge](CC)(CC)CC)([Ge](CC)(CC)CC)C | C13H33ClGe3
reactant | sodium hydroxide | 0.6 g | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
product | oxybis(1,1,1,3,3,3-hexaethylmethyltrigermane) | O([Ge]([Ge](CC)(CC)CC)([Ge](CC)(CC)CC)C)[Ge]([Ge](CC)(CC)CC)([Ge](CC)(CC)CC)C | C26H66Ge6O
